### PR TITLE
feat: BitVec.shiftLeft in terms of extractLsb'

### PR DESCRIPTION
**Pull request by bollu**
This PR adds rewrites that normalizes left shifts by extracting bits and concatenating zeroes. If the shift amount is larger than the bit-width, then the resulting bitvector is zero.

```lean
theorem shiftLeft_eq_zero {x : BitVec w} {n : Nat} (hn : w ≤ n) : x <<< n = 0#w

theorem shiftLeft_eq_concat_of_lt {x : BitVec w} {n : Nat} (hn : n < w) :
    x <<< n = ((x.extractLsb' 0 (w-n)).append (BitVec.zero n)).cast (by omega)
```

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -1313,6 +1313,11 @@ theorem getElem_shiftLeft' {x : BitVec w₁} {y : BitVec w₂} {i : Nat} (h : i
     (x <<< y)[i] = (!decide (i < y.toNat) && x.getLsbD (i - y.toNat)) := by
   simp
 
+theorem shiftLeft_eq_zero (x : BitVec w) (n : Nat) (hn : w ≤ n) : x <<< n = 0#w := by
+  ext i hi
+  simp [hn, hi]
+  omega
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1319]:
```suggestion
theorem shiftLeft_eq_zero {x : BitVec w} {n : Nat} (hn : w ≤ n) : x <<< n = 0#w := by
  ext i hi
  simp [hn, hi]
  omega
```

Also, should this be tagged `@[simp]`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -1950,6 +1955,16 @@ theorem ushiftRight_eq_extractLsb'_of_lt {x : BitVec w} {n : Nat} (hn : n < w) :
   have := lt_of_getLsbD h
   omega
 
+theorem shiftLeft_eq_concat_of_lt (x : BitVec w) (n : Nat) (hn : n < w) :
+    x <<< n = ((x.extractLsb' 0 (w-n)) ++ (0#n)).cast (by omega) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1959]:
```suggestion
theorem shiftLeft_eq_concat_of_lt {x : BitVec w} {n : Nat} (hn : n < w) :
    x <<< n = ((x.extractLsb' 0 (w-n)) ++ (0#n)).cast (by omega) := by
```

**Comment by tobiasgrosser** [comment]
> This PR adds rewrites that normalizes left shifts by extracting bits and concatenating zeroes. If the shift amount is larger than the bit-width, then the resulting bitvector is zero.

that **normalize** left shidts

Also, update the theorem names in the PR message to match their current names.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 1 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:1319]: I've been a bit conservative in tagging theorems `@[simp]`, I want to take time and sweep through everything we have. But I think this is clearly a `simp` lemma.

**Review by tobiasgrosser — APPROVED** [review]
